US04051248
B. 8-(1H-Inden-2-ylcarbonyl)-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one
Indene-2-carboxylic acid (12.8g) is dissolved in dry tetrahydrofuran (300 ml), cooled to 0° C, treated with N-methylmorpholine (40 drops), triethylamine (12 ml) and ethyl chloroformate (8.6g) and stirred for 30 minutes. To this mixture is added a suspension of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (20.0g) in dry tetrahydrofuran (200 ml) and the mixture is stirred at 0° C for 30 minutes. The mixture is allowed to warm to room temperature and stirred for 16 hours. The precipitated solids are filtered off, washed with additional tetrahydrofuran, and the filtrate is concentrated. The semi-solid residue is dissolved in chloroform, washed with water and saturated sodium bicarbonate solution, dried, and concentrated to give the crude product.

reactant | Indene-2-carboxylic acid | 12.8g | C1C(=CC2=CC=CC=C12)C(=O)O | C10H8O2
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.6g | ClC(=O)OCC | C3H5ClO2
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 20.0g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | N-methylmorpholine | 40 drops | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 8-(1H-Inden-2-ylcarbonyl)-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one | C1C(=CC2=CC=CC=C12)C(=O)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H23N3O2
